US08476297B2
(R)-2-Methyl-1-oxo-1-(1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2(1H)-yl)propan-2-yl acetate
To a solution of (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (207 mg, 747 μmol, example 30 (step 1) and DIEA (130 μL, 747 μmol) in DCM (2.5 mL) was added 1-chlorocarbonyl-1-methylethyl acetate (119 μL, 821 μmol). The mixture was stirred at RT for 3 h. Then, 1-chlorocarbonyl-1-methylethyl acetate (50 μL) was added and the mixture was stirred at RT for 16 h. MeOH (1 mL) was added and the mixture was filtered. The filtrate was purified by preparative HPLC (0%-100% MeCN 0.1% TFA/water 0.1% TFA) to give the title compound in a solution of H2O 0.1% TFA and MeCN 0.1% TFA. The solvent was removed and saturated NaHCO3 (5 mL) was added. The mixture was extracted with EtOAc (2×30 mL). The combined organic extracts were dried over MgSO4, concentrated, and dried in vacuo to give the title compound as a white solid. MS (ESI, positive ion) m/z: 406 (M+H).

reactant | (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 747 μmol, 130 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-chlorocarbonyl-1-methylethyl acetate | 821 μmol, 119 μL | C(C)(=O)OC(C)(C)C(=O)Cl | C6H9ClO3
reactant | 1-chlorocarbonyl-1-methylethyl acetate | 50 μL | C(C)(=O)OC(C)(C)C(=O)Cl | C6H9ClO3
reactant | MeOH | 1 mL | CO | CH4O
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-Methyl-1-oxo-1-(1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2(1H)-yl)propan-2-yl acetate | C(C)(=O)OC(C(N1[C@@H](C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F)=O)(C)C | C22H22F3NO3
